US03978045
To an ice-cooled suspension of 1.0 gram of N2 -dansyl-L-arginine in 15 ml of methanol was added dropwise 0.5 ml of thionyl chloride with vigorous stirring. After being allowed to stand for 2 hours at room temperature, the reaction mixture was refluxed for 2 hours, and was evaporated to dryness (syrup). Treatment of the residual syrup with cold ethyl ether and a small amount of water gave crude crystals. After recrystallization from methanol-ethyl ether, colorless N2 -dansyl-L-arginine methyl ester dihydrochloride monohydrate was obtained in 92% yield; mp. 147°-150°C.

reactant | N2 dansyl-L-arginine | 1.0 gram | N#N.S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | thionyl chloride | 0.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 15 ml | CO | CH4O
product | N2 dansyl-L-arginine methyl ester dihydrochloride monohydrate | 92% yield | N#N.O.Cl.Cl.COC([C@@H](NS(=O)(=O)C1=CC=CC=2C(N(C)C)=CC=CC12)CCCNC(N)=N)=O | InChI=1S/C19H27N5O4S.2ClH.N2.H2O/c1-24(2)16-10-4-8-14-13(16)7-5-11-17(14)29(26,27)23-15(18(25)28-3)9-6-12-22-19(20)21;;;1-2;/h4-5,7-8,10-11,15,23H,6,9,12H2,1-3H3,(H4,20,21,22);2*1H;;1H2/t15-;;;;/m0..../s1
